US04307230
A solution of 2-benzhydryloxycarbonyl-3-(2-dimethylaminovinyl)-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (E-form) (23.5 g) in ethyl acetate (500 cc) is stirred with 1 N hydrochloric acid (250 cc) for 90 minutes at 25° C. The organic phase is decanted, washed with distilled water (3×250 cc), a saturated sodium bicarbonate solution (100 cc) and a half-saturated sodium chloride solution (250 cc), then dried over sodium sulphate and concentrated to dryness under reduced pressure (40 mm Hg) at 40° C. 2-Benzhydryloxycarbonyl-8-oxo-3-(2-oxo-ethyl)-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (21 g) is obtained in the form of an orange-coloured froth.

reactant | 2-benzhydryloxycarbonyl-3-(2-dimethylaminovinyl)-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 23.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H39N3O3S
reactant | hydrochloric acid | 1 N, 250 cc | Cl | ClH
reactant | ethyl acetate | 500 cc | C(C)(=O)OCC | C4H8O2
product | 2-Benzhydryloxycarbonyl-8-oxo-3-(2-oxo-ethyl)-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 21 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1CC=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H34N2O4S
